US07262201B1
Sodium hydride (40 mg, 1 mmol, prewashed with THF) was added to a suspension of 3-(3,4-dimethoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one (220 mg, 1 mmol) in DMF (3 ml) under nitrogen. After stirring for 20 minutes at ambient temperature, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (134 mg, 0.4 mmol), (prepared as described for the starting material in Example 2), was added and the mixture was heated for 30 minutes at 60° C. After cooling, the mixture was diluted with saturated aqueous ammonium chloride solution and partitioned between methylene chloride and water. The organic layer was washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/ethyl acetate/methanol (1/10 followed by 5/4/1). The volatiles were removed by evaporation and the residual solid was collected by filtration, washed with ether and dried under vacuum to give 4-(5-(3,4-dimethoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (120 mg, 57%).

reactant | Sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | 3-(3,4-dimethoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one | 1 mmol, 220 mg | COC=1C=C(C=CC1OC)C1=NNC(C1)=O | C11H12N2O3
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.4 mmol, 134 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-(5-(3,4-dimethoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 120 mg, 57% | COC=1C=C(C=CC1OC)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C27H31N5O6
